US05843942
A mixture of 4-methylsalicyclic acid (20 g), benzylbromide (33 ml) and potassium carbonate (36.3 g ) in DMF (100 ml) was stirred for 12 hours. The mixture was poured into water (300 ml) and extracted three times with diethylether (100 ml each time). The combined organic extracts were washed with water and dried. Removal of the solvent gave benzyl 2-benzyloxy-4-methylbenzoate acid as a yellow liquid, yield 45 g.

reactant | 4-methylsalicyclic acid | 20 g | CC1=CC(=C(C=C1)C(=O)O)O | C8H8O3
reactant | benzylbromide | 33 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 36.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | benzyl 2-benzyloxy-4-methylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C | C22H20O3
